US06344459B1
To a stirred solution of 6-amino-4-[(3-bromophenyl)amino]quinazoline (J Med Chem, 1995;38:3482) (0.50 g, 1.59 mmol) in THF (20 mL) under nitrogen was added Et3N (excess, 1.0 mL), a catalytic amount of DMAP and methacryloyl chloride (1.1 mol eq., 1.75 mmol, 171 μL) dropwise. The reaction was stirred at 25° C. for 1.5 hours over which time two further amounts (50 μL) of methacryloyl chloride were added. The reaction was then diluted with saturated NaHCO3 and extracted with EtOAc. The combined organic extracts were dried over anhydrous Na2SO4, concentrated under reduced pressure and chromatographed on silica gel eluting with CH2Cl2/EtOAc (1:1) to MeOH/CH2Cl2/EtOAc (5:45:50). Recrystallization from EtOAc gave N-[4-[(3-bromophenyl)amino]quinazolin-6-yl]-2-methylacrylamide (195 mg, 32%) as a cream powder, mp 244-245° C.

reactant | 6-amino-4-[(3-bromophenyl)amino]quinazoline | 1.59 mmol, 0.50 g | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Br | C14H11BrN4
reactant | Et3N | 1.0 mL | CCN(CC)CC | C6H15N
reactant | methacryloyl chloride | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | methacryloyl chloride | 50 μL | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | N-[4-[(3-bromophenyl)amino]quinazolin-6-yl]-2-methylacrylamide | 195 mg, 32% | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C(=C)C)=O | C18H15BrN4O
